US06458781B1
Step A. (S)-2-Isopropylamino-4-methyl-pentanoic acid
A mixture of L-leucine (5.0 g, 38 mmol) and acetone (5.6 mL, 76 mmol) was agitated in an atmosphere of hydrogen (pressure, 33-52 psi) at room temperature in absolute ethanol (100 mL) in the presence of Pd/C (20%, 1 g) until the absorption of hydrogen almost ceased. Four milliliters of concentrated HCl (aq, 36.5%) was then added and stirred for 10 minutes; the catalyst was then removed by filtration. The filtrate was treated with aqueous ammonium hydroxide (29.8%) to adjust the pH to 6.5. White solid precipitated out which was isolated via filtration. The white solid was mixed with 100 mL of water and heated to boiling on a hot plate. After cooling down to 0° C., the white solid was filtered and dried under vacuum. Forty percent (2.6 g) of the pure titled compound was isolated as a white solid; mp 293-296° C. APCI-MS m/z 174.2 (MH+).

reactant | L-leucine | 38 mmol, 5.0 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | acetone | 76 mmol, 5.6 mL | CC(=O)C | C3H6O
reactant | hydrogen | [H][H] | H2
reactant | HCl | Four milliliters | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 1 g | [Pd] | Pd
solvent | water | 100 mL | O | H2O
product | (S)-2-Isopropylamino-4-methyl-pentanoic acid | 2.6 g, Forty percent | C(C)(C)N[C@H](C(=O)O)CC(C)C | C9H19NO2
